US06465467B1
Step 1: 3-Chloro-2-(4-benzyl-2-methyl-1-piperazinyl)pyrazine.
A mixture of 2,3-dichloropyrazine (0.332 g, 2.23 mmol), 1-benzyl-3-methylpiperazine* (0.423 g, 2.23 mmol), and K2CO3 (0.339 g, 2.45 mmol) in acetonitrile (2.5 mL) was stirred at 115° C. for 17 h in a sealed tube. The reaction mixture was diluted with ether, filtered, and concentrated. The brownish oily residue was purified by chromatography on silica gel using n-hexane/EtOAc (7:3) as eluent to give 0.19 g (28%) of the title product as a viscous oil that was sufficiently pure for the next step.

reactant | 2,3-dichloropyrazine | 2.23 mmol, 0.332 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 1-benzyl-3-methylpiperazine | C(C1=CC=CC=C1)N1CC(NCC1)C | C12H18N2
reactant | K2CO3 | 2.45 mmol, 0.339 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 3-Chloro-2-(4-benzyl-2-methyl-1-piperazinyl)pyrazine | 0.19 g, 28% | ClC=1C(=NC=CN1)N1C(CN(CC1)CC1=CC=CC=C1)C | C16H19ClN4
